US05116855
A mixture of 0.85 g of ethyl 2-[3-(4-oxo-2-thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetate, 5 ml of water and 1 ml of 5% sodium hydroxide solution was stirred at room temperature for one hour. 10% hydrochloric acid was added to the mixture and the precipitated crystals were collected by filtration and washed with methanol to give 2-[3-(4-oxo-2thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetic acid in the yield of 76%.

reactant | ethyl 2-[3-(4-oxo-2-thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetate | 0.85 g | O=C1NC(S(=C1)=C(C=CC1=C(OCC(=O)OCC)C=CC=C1)C)=S | C17H19NO4S2
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-[3-(4-oxo-2thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetic acid | yield of 76% | O=C1NC(S(=C1)=C(C=CC1=C(OCC(=O)O)C=CC=C1)C)=S | C15H15NO4S2
